US03954730
B. 1-Bromo-1-cyclopentanecarboxylic acid
20 g (0.176 mol) of cyclopentaencarboxylic acid are mixed with red phosphorus (2.5 g). 17.9 ml (0.352 mol) of bromine are added dropwise thereto over the course of 2 hours; thereupon, a vigorous reaction is observed, with liberation of hydrogen bromide. The reaction contents are then stirred for 3 hours at 60°C. The oil, which shows a heavy dark coloration, is cooled and poured into water and the resulting reaction mixture is extracted three times with ether. The collected ether phases are washed with water and dried. After distilling off the ether, the oily residue is distilled in a high vacuum.

reactant | cyclopentaencarboxylic acid | 0.176 mol, 20 g | C1(=CCCC1)C(=O)O | C6H8O2
reactant | bromine | 0.352 mol, 17.9 ml | BrBr | Br2
reactant | hydrogen bromide | Br | BrH
solvent | water | O | H2O
product | 1-Bromo-1-cyclopentanecarboxylic acid | BrC1(CCCC1)C(=O)O | C6H9BrO2
